US06114532
b. ethyl 3-(4-chloro-phenyl)-4-oxo-4-pyrrolidin-1-yl-butyrate
16.8 g (0.075 mol) of 2-(4-chloro-phenyl)-1-pyrrolidin-1-yl-ethanone are dissolved in 175 ml dimethylsulphoxide and after the addition of 8.9 g (0.08 mol) of potassium tert.butoxide stirred for 15 minutes at ambient temperature. After the addition of 18.1 ml (0.085 mol) of ethyl iodoacetate the reaction mixture is stirred for 45 hours at ambient temperature. The solution is poured onto ice water and extracted with ethyl acetate. The combined organic extracts are washed with sodium chloride solution, dried and concentrated by evaporation. The residue is chromatographed on silica gel, initially eluting with petroleum ether and later with petroleum ether/ethyl acetate (8:2 and 1:1). The desired fractions are combined and concentrated by evaporation.

reactant | 2-(4-chloro-phenyl)-1-pyrrolidin-1-yl-ethanone | 0.075 mol, 16.8 g | ClC1=CC=C(C=C1)CC(=O)N1CCCC1 | C12H14ClNO
reactant | potassium tert.butoxide | 0.08 mol, 8.9 g | CC(C)([O-])C.[K+]
reactant | ethyl iodoacetate | 0.085 mol, 18.1 ml | ICC(=O)OCC | C4H7IO2
solvent | dimethylsulphoxide | 175 ml | CS(=O)C | C2H6OS
product | ethyl 3-(4-chloro-phenyl)-4-oxo-4-pyrrolidin-1-yl-butyrate | ClC1=CC=C(C=C1)C(CC(=O)OCC)C(N1CCCC1)=O | C16H20ClNO3
